US07910588B2
Place 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.4 g, 1.34 mmol, 1 eq) and piperidine (662 μL, 6.69 mmol, 5 eq) in a microwave vial, seal and heat in a CEM™ microwave to 180° C. with up to 300 Watt power for 1 hr. (Caution—pressure build up). Add 2 M aqueous sodium hydroxide solution (5 mL) and DCM (5 mL), and then pass through a hydrophobic frit to separate. Extract the aqueous layer twice with DCM (5 mL) combine the organic extracts and concentrate to give 3′-piperidin-1-yl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.46 g, 99%). MS (m/z): 348.3 (M+1).

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 1.34 mmol, 0.4 g, 1 eq | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | piperidine | 6.69 mmol, 662 μL, 5 eq | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 2 M, 5 mL | [OH-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3′-piperidin-1-yl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 0.46 g, 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1N1CCCCC1 | C18H29N5O2
